Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dysuria, weakness, dark urine, light stool and yellow eyes
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with no significant
past medical history who initially presented to ___ 
___
with dysuria, weakness, dark urine, light stool and yellow eyes. 


___ reports that several days ago he got into a fight and
was bit on the left arm by another man. He does not know if this
other individual has any medical problems. Three days after this
fight he decided to detox from opioids. He uses a friend's 
___
and ___ to get through his withdrawal. It was during this
time that he started to notice yellowing of his eyes. He vomited
several times between ___. During the last few
episodes he had some specks of blood in his vomit. He also
reports mild abdominal pain and back pain during this time as
well. He reports a 23 lb weight loss in the last 90 days. He 
last
recalls his weight being 223lbs. He was released from prison
after being incarcerated for ___ year and 2 days about 90 days 
ago.
He denies any sick contacts. 

He also reports some penile discharge and believes that he has
gonorrhea. Two months ago he had sexual intercourse with someone
who had gonorrhea and after that had "profuse" penile discharge
for about 2 weeks. He did not seek treatment. Now he is having
just a little bit of penile discharge just when he is aroused. 

At ___ he was afebrile. His labs were significant for an 
INR
of 1.4, ammonia 54, Na 133, Creat 1.7, Tbili 22.9, ALT 198, WBC
9.7, Hb 10.5, Platelets 141, negative Tylenol level. He had a
RUQUS that did not show any ascites. He was given 2L IVF. He was
reportedly confused and intermittently altered (arousable to
painful stimuli) at ___ so was transferred to ___. 

In the ED, initial VS were: 97.6F (Tmax 100.2F), HR 80, BP
110/72, RR 18, 94% on RA

Exam notable for: Scleral icterus, dry mucus membranes, tender 
in
epigastrum, mildly distended, no rebound or guarding. No
asterixis. A&Ox3. GU with no visible discharge,  implanted 
domino
on underside of penile shaft.

Labs showed:
UA: 22 WBC, <1 epi, negative nitrite, few bacteria -> repeat 
with
0 WBC
CBC: Hb 9.7, WBC 8.2, Platelets 253
INR 1.2
Tox: positive for cocaine 
LFTs: AST 385, ALT 1606, AP 60, Tbili 21.1, Direct bili 14.8
BMP: Creat 1.2
Lactate 1.8
Tylenol - negative 
HIV - negative 

Imaging showed:
RUQUS: 1. Marked gallbladder wall edema within the context of a
nondistended gallbladder may be due to acute hepatitis. No
cholelithiasis or acute cholecystitis.
2. Normal sonographic appearance of the liver.
3. No ascites.

Consults: Hepatology recommended admission to medicine, 
obtaining
HAV IgM, monitoring LFTs q12h

Patient received: CTX 2g and azithromycin 1g

Transfer VS were: 99.6F, HR 68, BP 132/83, RR 16, 100% on RA

On arrival to the floor, patient asks how long he will be in the
hospital. He does say that he has a "strong willpower" and does
not plan to use opiates again. He denies recent Tylenol use,
binge drinking, herbal or supplement use. No raw meat, does not
eat seafood. Denies dysuria or urinary frequency. 

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI

 
Past Medical History:
Chlamydia several years ago, treated 
 
Social History:
___
Family History:
Father with HIV, HTN, diabetes and kidney disease. Mother and
siblings are all healthy. No family history of liver disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.8F, 115/64, HR 70, RR 18, 99 %RA 
GENERAL: NAD
HEENT: AT/NC, icteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, tender in epigastrium, no
rebound/guarding, no hepatosplenomegaly
GU: No penile discharge noted 
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric, no asterixis 
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSCIAL EXAM

+Scleral icterus
Well-appearing
Stable gait
No abdominal tenderness to palpation.
In good spirits.

Patient eloped prior to receiving his discharge instructions & 
Rx for Naloxone (Narcan). 
 
Pertinent Results:
ADMISSION LABS
--------------

___ 11:20AM BLOOD WBC-8.2 RBC-3.30* Hgb-9.7* Hct-31.3* 
MCV-95 MCH-29.4 MCHC-31.0* RDW-14.6 RDWSD-49.7* Plt ___
___ 11:20AM BLOOD Neuts-51 Bands-4 ___ Monos-10 Eos-0 
Baso-0 Atyps-1* Metas-5* Myelos-1* AbsNeut-4.51 AbsLymp-2.38 
AbsMono-0.82* AbsEos-0.00* AbsBaso-0.00*
___ 11:20AM BLOOD ___ PTT-29.3 ___
___ 11:20AM BLOOD Glucose-92 UreaN-13 Creat-1.2 Na-137 
K-5.0 Cl-99 HCO3-27 AnGap-11
___ 11:20AM BLOOD ALT-1606* AST-385* AlkPhos-60 
TotBili-21.1* DirBili-14.8* IndBili-6.3
___ 03:00PM BLOOD Iron-65
___ 11:20AM BLOOD Albumin-3.4*
___ 09:12PM BLOOD Albumin-3.2*
___ 08:00AM BLOOD Albumin-3.3* Calcium-8.5 Phos-2.8 Mg-2.0
___ 03:00PM BLOOD calTIBC-237* Ferritn-3889* TRF-182*
___ 08:00AM BLOOD VitB12-___* Folate-8 Hapto-20*
___ 03:00PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-POS* 
IgM HAV-PND
___ 03:00PM BLOOD IgG-1707* IgA-251 IgM-428*
___ 03:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:00PM BLOOD HCV Ab-NEG
___ 11:35AM BLOOD Lactate-1.8
___ 08:00AM BLOOD HERPES SIMPLEX VIRUS 1 AND 2 ANTIBODY 
IGM-PND
___ 03:00PM BLOOD ___
___ 03:00PM BLOOD AMA-PND

DISCHARGE LABS
--------------
Patient eloped. 

MICROBIOLOGY
------------
___ 3:00 pm SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

IMAGING
-------

___ RUQ US
1. Marked gallbladder wall edema within the context of a 
nondistended 
gallbladder may be due to acute hepatitis.  No cholelithiasis or 
acute 
cholecystitis. 
2. Normal sonographic appearance of the liver. 
3. No ascites. 

 
Brief Hospital Course:
___ year old male with history of polysubstance use who presented 
with acute hepatitis of unclear etiology. Transaminases 
downtrended, but patient eloped. 

ACUTE ISSUES:
===============
# Acute hepatitis. 
Unclear etiology. No clear medications that may have led to 
hepatitis. HCV, Hep B negative. Hep A IgG positive, IgM pending 
at the time the patient eloped. With recent community outbreak, 
hepatitis A possible. Transferrin saturation 27%
which makes hemochromatosis less likely. Alcohol less likely the 
cause given patient's drinking history and no 2:1 ratio of 
AST:ALT. Patient endorses use of several illicit substances 
recently which may have led to hepatotoxicity, most notably 
cocaine - ischemic liver injury possible from cocaine-induced
vasospasm. Initially altered at OSH with concern for acute liver 
failure, however altered mental status has resolved and was 
likely secondary to intoxication/ withdrawal. LFTs downtrending 
during hospital stay. Per hepatology, if testing comes back 
negative and if repeat LFTs in 2wks are normal with PCP, no need 
for hepatology follow-up.

#Coagulapathy
Likely secondary to hepatitis vs in the setting of malnutrition. 
Stable during hospitalization. 

#Anemia. 
Hb at ___ 10.5, down to 9.7 on transfer, but in the setting 
of receiving multiple liters of IVF. No clinical evidence of 
bleeding. Iron studies showing elevated ferritin, low 
transferrin consistent with anemia of chronic disease. 

#Nausea:
#Vomiting:
#Diaphoresis:
Vomiting likely secondary to acute hepatitis vs opiate 
withdrawal. History consistent with possible ___ tear 
however no signs of ongoing GI bleeding. Hgb stable as above. 
Improved during hospitalization. 

___. 
Creatinine 1.7 initially at ___, downtrended to 1.2 here 
after receiving IVF, now stable at 1.7 as of ___. Unclear 
baseline creatinine. Likely pre-renal in the setting of acute 
illness and vomiting, vs ischemic insult from cocaine-induced 
vasospasm. Creatinine 1.1 at the time he eloped. 

#Penile discharge. 
S/p ceftriaxone 2g and azithromycin 1g in the ED for treatment 
of possible STD. Initial UA concerning for UTI given WBC however 
negative nitrites. Repeat Ua several hours later was bland. 
Urinary sx subsequently resolved. HIV negative. RPR negative. 
Gonorrhea, chlamydia pending at the time he eloped. 

#Polysubstance abuse. 
Endorses using multiple illicit drugs including heroin, cocaine 
and K2. Recent detox from opiates and does not wish to resume 
use. Concern for withdrawal given nausea / vomiting / 
diaphoresis as above. Minimal symptoms before he eloped. He does 
plan to continue to use marijuana. Social work saw the patient, 
but he declined social work resources. 

#Nodular Lesions on Left Buttock 
Unclear etiology, possibly eczematous dermatitis vs contact 
dermatitis given pruritus. Could also consider lichen planus, 
although both seem less likely given appearance. Lesions are in 
a dermatomal distribution on left lateral-superior gluteal 
region, so also need to consider shingles in this acutely ill 
patient who
is immunocompromised (with acute hepatitis), although lesions 
are not painful and non-erythematous, so less likely. Recommend 
outpatient follow up

TRANSITIONAL ISSUES
===================
[] Repeat LFTs in 2 weeks.
[] Follow up pending hepatitis work up. 
[] Per hepatology, if testing comes back negative and if repeat 
LFTs in 2wks are normal, no need for hepatology follow-up.
[] INR elevated to 1.2, possibly in the setting of acute 
hepatitis. Repeat on follow up. If persistently elevated 
consider further evaluation.
[] Hgb 10.6 on discharge. Iron studies consistent with anemia of 
chronic disease. Please follow up to ensure normalization 
following resolution of acute hepatitis.
[] Continue to encourage patient to refrain from using illicit 
drugs. Consider social work referral if patient is amenable.
[] Please provide prescription for naloxone if patient is 
amenable (he eloped prior to receiving his discharge 
instructions and Rx for narcan)

*Patient told us best number to reach him is ___.

CORE MEASURES:
==============
#CODE: Full (presumed)
#CONTACT: sister ___ ___
.
.
.
Time in care:
Greater than 30 minutes in discharge-related activities today.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
Patient eloped.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
#Acute hepatitis

SECONDARY DIAGNOSES
===================
#Coagulapathy
#Anemia
#Nausea
#Vomiting
#Diaphoresis
___
#Penile discharge
#Polysubstance abuse
#Nodular Lesions on Left Buttock 

 
Discharge Condition:
Patient eloped.

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you at ___!

Why was I admitted to the hospital?
- You presented with nausea and vomiting and were found to have 
an acute inflammation of your liver.
- You were given medications to treat the symptoms of the 
inflammation.
- Unfortunately, you left the hospital before we were able to 
discharge you.
- You should follow up with your PCP ___ 1 week to ensure 
that you liver is recovering. 

All the best,

Your ___ care team
 
Followup Instructions:
___